US07378417B2
5-(3,4-Difluoro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide
The title compound was prepared from 5-(3,4-difluoro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.21) and 3-methanesulfonyl-phenylamine [commercially available as hydrochloride] according to general procedure II. Yellow solid. MS (ISP) 497.1 [(M+H)+]; mp 256° C.

reactant | 5-(3,4-difluoro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=C(C=CC1F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)O | C14H6F5N3O2
reactant | 3-methanesulfonyl-phenylamine | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
reactant | hydrochloride | Cl | ClH
product | 5-(3,4-Difluoro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide | CS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)F)F | C21H13F5N4O3S
